US06939887B2
Synthesis of 3-[2-(diethylamino)ethyl]-2-oxo-7-(trifluoromethyl)-1-[3-(trifluoromethyl)benzyl]-2,3-dihydro-1H-benzimidazole-5-carboxamide trifluoroacetate
A solution of 3-[2-(diethylamino)ethyl]-2-oxo-7-(trifluoromethyl)-1-[3-(trifluoromethyl)benzyl]-2,3-dihydro-1H-benzimidazole-5-carbonitrile (226.3 mg) in t-butanol (10 ml) was stirred with heating at 60° C. To the solution was added powdered potassium hydroxide crashed in mortar (652.3 mg), and the mixture was stirred with heating at 60° C. for 2 hours. To the reaction mixture were added saturated aqueous sodium bicarbonate solution and water, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, and concentrated in vacuo. The resultant residue was purified by HPLC using condition 2 to give the title compound (145.8 mg, 51%).

reactant | 3-[2-(diethylamino)ethyl]-2-oxo-7-(trifluoromethyl)-1-[3-(trifluoromethyl)benzyl]-2,3-dihydro-1H-benzimidazole-5-carbonitrile | 226.3 mg | C(C)N(CCN1C(N(C2=C1C=C(C=C2C(F)(F)F)C#N)CC2=CC(=CC=C2)C(F)(F)F)=O)CC | C23H22F6N4O
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | water | O | H2O
solvent | t-butanol | 10 ml | C(C)(C)(C)O | C4H10O
product | 3-[2-(diethylamino)ethyl]-2-oxo-7-(trifluoromethyl)-1-[3-(trifluoromethyl)benzyl]-2,3-dihydro-1H-benzimidazole-5-carboxamide trifluoroacetate | 145.8 mg, 51% | FC(C(=O)O)(F)F.C(C)N(CCN1C(N(C2=C1C=C(C=C2C(F)(F)F)C(=O)N)CC2=CC(=CC=C2)C(F)(F)F)=O)CC | InChI=1S/C23H24F6N4O2.C2HF3O2/c1-3-31(4-2)8-9-32-18-12-15(20(30)34)11-17(23(27,28)29)19(18)33(21(32)35)13-14-6-5-7-16(10-14)22(24,25)26;3-2(4,5)1(6)7/h5-7,10-12H,3-4,8-9,13H2,1-2H3,(H2,30,34);(H,6,7)
